US04705802
Sodium 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate.
3 g of 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate are mixed with 50% strength ethanol and the equivalent amount of sodium hydroxide, the mixture is stirred for 1 hour and the solvent is stripped off in vacuo. The residue is powdered.

reactant | 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate | 3 g | C1(=CC=CC=C1)CCCC1=CC=C(S1)CCCCC(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Sodium 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate | C1(=CC=CC=C1)CCCC1=CC=C(S1)CCCCC(=O)[O-].[Na+] | InChI=1S/C18H22O2S.Na/c19-18(20)12-5-4-10-16-13-14-17(21-16)11-6-9-15-7-2-1-3-8-15;/h1-3,7-8,13-14H,4-6,9-12H2,(H,19,20);/q;+1/p-1
